US06982274B2
[3-(3-Fluorophenyl)-1H-5-indazolyl]methanamine
To a solution of 300 mg of tert-butyl 5-(aminomethyl)-3-(3-fluorophenyl)-1H-1-indazolecarboxylate in 1 ml methylene chloride was added 2 ml of trifluoroacetic acid, and the mixture was stirred at room temperature for 6.5 hours. After removing the solvent by filtration, to the residue was added 20 ml of ethyl acetate. The mixture was sequentially washed with saturated aqueous sodium hydrogencarbonate solution (×2) and brine, dried over anhydrous magnesium sulfate and the solvent was evaporated, to give 188 mg of the title compound as yellow crystals.

reactant | tert-butyl 5-(aminomethyl)-3-(3-fluorophenyl)-1H-1-indazolecarboxylate | 300 mg | NCC=1C=C2C(=NN(C2=CC1)C(=O)OC(C)(C)C)C1=CC(=CC=C1)F | C19H20FN3O2
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | [3-(3-Fluorophenyl)-1H-5-indazolyl]methanamine | 188 mg | FC=1C=C(C=CC1)C1=NNC2=CC=C(C=C12)CN | C14H12FN3
